US07244725B2
2-Bromopyridine (Aldrich, 0.48 mL, 5.0 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (Aldrich, 200 mg, 0.25 mmol) were added to the neopentylzinc chloride suspension. The resulting suspension was stirred at rt for 21 h, whereupon saturated ammonium chloride solution (25 mL) was added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was dissolved in methylene chloride, and washed with 1 N HCl. The aqueous layer was separated, basified with 10 N NaOH (aq), and extracted with CH2Cl2. The organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure to give 2-neopentylpyridine as an oil: Rf=0.33 in 5% MeOH/CH2Cl2.

reactant | 2-Bromopyridine | 5.0 mmol, 0.48 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | dichloromethane | 0.25 mmol, 200 mg | ClCCl | CH2Cl2
reactant | neopentylzinc chloride | [Cl-].C(C(C)(C)C)[Zn+]
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-neopentylpyridine | C(C(C)(C)C)C1=NC=CC=C1 | C10H15N
